US07173033B2
A mixture of 6-chloro-3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (620 mg), heptamethylenimine (1.32 g) and 1,4-dioxane (20 ml) was stirred at 100° C. for 9 hours. After allowing to cool to room temperature, the reaction solution was concentrated under reduced pressure, and the resultant residue was extracted with ethyl acetate. The extract was washed successively with 5% aqueous solution of citric acid, water, saturated aqueous solution of sodium hydrogen carbonate and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant crude crystal was recrystallized from ethanol, to obtain 6-azocan-1-yl -3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (370 mg) as grayish white crystals.

reactant | 6-chloro-3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 620 mg | ClC=1C=CC=2N(N1)C(=NN2)C2=NC(=CC=C2)Cl | C10H5Cl2N5
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 6-azocan-1-yl -3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 370 mg | N1(CCCCCCC1)C=1C=CC=2N(N1)C(=NN2)C2=NC(=CC=C2)Cl | C17H19ClN6
